US05872137
A reaction vessel was charged with 11.6 g of 3,5-dichloro-4-(3-benzoyloxypropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene, 15.2 g of 10% aqueous potassium hydroxide solution and 300 ml of methanol. After stirring at room temperature for 24 hours, and the reaction mixture was concentrated. The concentrate was poured into water, and extracted twice with 150 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 7.41 g of 3-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-1-propyl alcohol (83%o yield), m.p. 56.6° C.

reactant | 3,5-dichloro-4-(3-benzoyloxypropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 11.6 g | ClC=1C=C(C=C(C1OCCCOC(C1=CC=CC=C1)=O)Cl)OCC=C(Cl)Cl | C19H16Cl4O4
reactant | potassium hydroxide | 15.2 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 3-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)-1-propyl alcohol | 7.41 g | ClC1=C(OCCCO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H12Cl4O3
